US04234594
2(3-Methyl-1-phenyl-5-pyrazolyl)amino-2-imidazoline hydrochloride
1-Acetyl-2-(3-methyl-1-phenyl-5-pyrazolyl) amino-2-imidazoline (35.0 g.) was treated with HCl in methanol as described in Example II to give 28.7 g. product as the hydrochloride. mp 182°-184°

reactant | 1-Acetyl-2-(3-methyl-1-phenyl-5-pyrazolyl) amino-2-imidazoline | 35.0 g | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1C1=CC=CC=C1)C | C15H17N5O
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 2(3-Methyl-1-phenyl-5-pyrazolyl)amino-2-imidazoline hydrochloride | Cl.CC1=NN(C(=C1)NC=1NCCN1)C1=CC=CC=C1 | InChI=1S/C13H15N5.ClH/c1-10-9-12(16-13-14-7-8-15-13)18(17-10)11-5-3-2-4-6-11;/h2-6,9H,7-8H2,1H3,(H2,14,15,16);1H
